US07592342B2
Preparation of N-(5-{3-[(1-methyl-1H-pyrazol-3-yl)amino]-6-quinoxalinyl}-3-pyridinyl)benzenesulfonamide
A slurry of 7-bromo-N-(1-methyl-1H-pyrazol-3-yl)-2-quinoxalinamine (0.37 mmol), N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (0.55 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.03 mmol) in 1,4-dioxane (4 ml) and 2M solution potassium carbonate (2 ml) was stirred at 100° C. for 2 hours. The reaction was cooled to ambient temperature, separated the organic layer and purified directly on silica by column chromatography (10% methanol/ethyl acetate). The desired fractions were combined and concentrated to give the title compound (81 mg, 32%) as a pale green solid. MS(ES)+ m/e 458.1 [M+H]+.

reactant | 7-bromo-N-(1-methyl-1H-pyrazol-3-yl)-2-quinoxalinamine | 0.37 mmol | BrC1=CC=C2N=CC(=NC2=C1)NC1=NN(C=C1)C | C12H10BrN5
reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 0.55 mmol | CC1(OB(OC1(C)C)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1)C | C17H21BN2O4S
reactant | potassium carbonate | 2 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-(5-{3-[(1-methyl-1H-pyrazol-3-yl)amino]-6-quinoxalinyl}-3-pyridinyl)benzenesulfonamide | 81 mg, 32% | CN1N=C(C=C1)NC=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C23H19N7O2S
